US07981903B2
To a solution of 6-(methyloxy)-3,4-dihydro-1(2H)-isoquinolinone (5 g, 28.2 mmol) in THF (300 mL) was added NaH (1.35 g, 34.1 mmol) and the mixture was stirred for 30 min, then Mel (4.82 g, 33.87 mmol) was added. Stirring was maintained for 3 hours and then the solution was diluted with sat. NH4Cl (aq) and extracted with dichloromethane. The combined organic layer was concentrated under reduced pressure to afford 6-methoxy-2-methyl-3,4-dihydroisoquinolin-1(2H)-one(6.3 g, 100%).

reactant | 6-(methyloxy)-3,4-dihydro-1(2H)-isoquinolinone | 28.2 mmol, 5 g | COC=1C=C2CCNC(C2=CC1)=O | C10H11NO2
reactant | NaH | 34.1 mmol, 1.35 g | [H-].[Na+]
reactant | THF | 300 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
product | 6-methoxy-2-methyl-3,4-dihydroisoquinolin-1(2H)-one | 6.3 g, 100% | COC=1C=C2CCN(C(C2=CC1)=O)C | C11H13NO2
